US06821977B2
2-Nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester
The previously prepared nitroamide 9-formyl-2-nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester (4.76 grams, 17 mmol) was suspended in 1N HCl and heated to 100° C. for 2 hours. After cooling to room temperature, the pH of the reaction mixture was adjusted to 12 with 1N NaOH. The precipitate formed was extracted with ethyl acetate. The latter was dried over anhydrous magnesium sulfate, filtered and evaporated.

reactant | nitroamide 9-formyl-2-nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester | 17 mmol, 4.76 grams | COC(=O)C1=CC(=CC=2N(CCCOC21)C=O)[N+](=O)[O-].[N+](=O)([O-])[NH-]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | HCl | 1N | Cl | ClH
product | 2-Nitro-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester | COC(=O)C1=CC(=CC=2NCCCOC21)[N+](=O)[O-] | C11H12N2O5
